US04748161
Commercial available γ-oryzanol (100 g, 24-methylenecycloartanol content 45%) was acetylated with acetic anhydride in pyridine. This acetylated γ-oryzanol was recrystallized repeatedly from chloroform-ethyl acetate-ethanol (4:3:2, V/V), giving acetyl ferulate (18 g) of 24-methylenecycloartanol content 95%. This acetyl ferulate was completely saponified in the solution of 2N NaOH-ethanol, then the obtained alcohol was converted into the benzoate. This benzoate was recrystallized repeatedly, and completely saponified to give 24-methylenecycloartanol (5 g). A portion (2 g, 0.0045 mole) thereof wa converted into 24-methylenecycloartanol-4-acetoxy-3-methoxycinnamate according to following the procedure of Example 65. This ester was then deacetylated according to following the procedure of Example 100-2, giving 24-methylenecycloartanol-4-hydroxy-3-methoxycinnamate (2.58 g), in a 90% yield. m.p. 166°-167° C.

reactant | γ-oryzanol | 100 g | C[C@H](CCC=C(C)C)[C@H]1CC[C@@]2([C@@]1(CC[C@]34[C@H]2CC[C@@H]5[C@]3(C4)CC[C@@H](C5(C)C)OC(=O)/C=C/C=6C=CC(=C(C6)OC)O)C)C | C40H58O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | acetyl ferulate | 18 g | C(\C=C\C1=CC(OC)=C(O)C=C1)(=O)OC(C)=O | C12H12O5
